US07030128B2
7-(1-Methyl-1-triethylsilanyloxyethyl)-3-(2-trifluoromethylpyrimidin-4-yl)imidazo[1,2-α]pyrimidine (136 mg, 0.31 mmol) in EtOH (5 ml) was treated with conc. HCl (5 drops) and the mixture stirred at room temperature for 16 h. The resulting mixture was concentrated under reduced pressure and then NaHCO3 solution (20 ml) added. The organics were extracted with CH2Cl2 (3×20 ml) and concentrated under reduced pressure while dry loading onto MgSO4. The residue was purified by column chromatography on silica using 5% MeOH/CH2Cl2 as the eluent to afford 2-[3-(2-trifluoromethylpyrimidin-4-yl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol (60 mg, 60%): 1H NMR (400 MHz, d6-DMSO) δ 9.97 (1H, d, J 7.4), 9.00 (1H, d, J 5.6), 8.97 (1H, s), 8.35 (1H, d, J 5.6), 7.73 (1H, d, J 7.4), 1.53 (6H, s); m/z (ES+) 324 (M+H+).

reactant | 7-(1-Methyl-1-triethylsilanyloxyethyl)-3-(2-trifluoromethylpyrimidin-4-yl)imidazo[1,2-α]pyrimidine | 0.31 mmol, 136 mg | CC(C)(O[Si](CC)(CC)CC)C1=NC=2N(C=C1)C(=CN2)C2=NC(=NC=C2)C(F)(F)F | C20H26F3N5OSi
solvent | EtOH | 5 ml | CCO | C2H6O
catalyst | HCl | 5 drops | Cl | ClH
product | 2-[3-(2-trifluoromethylpyrimidin-4-yl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | 60 mg, 60% | FC(C1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)(F)F | C14H12F3N5O
